US04241058
21.2 g of 3-(p-tert.butyl-phenyl)-1,2-dimethyl-propyl bromide, 17 g of piperidine and 7.5 g of ethyleneglycol are heated to 110° C. for 60 hours. After cooling, the mixture is treated with 2-N hydrochloric acid and the neutral constituent is extracted with ether. Subsequently, the hydrochloric acid solution is made alkaline with 5-N sodium hydroxide solution and extracted with ether. The combined ether extracts are washed neutral with water, dried over sodium sulphate and evaporated. By distillation there is obtained pure 1-[3-(p-tert.butyl-phenyl)-1,2-dimethyl-propyl]-piperidine (boiling point 125° C./0.005 Torr) in the form of a colourless oil.

reactant | 3-(p-tert.butyl-phenyl)-1,2-dimethyl-propyl bromide | 21.2 g | C(C)(C)(C)C1=CC=C(C=C1)CC(C(C)Br)C | C15H23Br
reactant | piperidine | 17 g | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | ethyleneglycol | 7.5 g | C(CO)O | C2H6O2
product | 1-[3-(p-tert.butyl-phenyl)-1,2-dimethyl-propyl]-piperidine | C(C)(C)(C)C1=CC=C(C=C1)CC(C(C)N1CCCCC1)C | C20H33N
